US07968552B2
Under ice-cooling, a 4 M hydrogen chloride dioxane solution (15 ml) was added dropwise to a mixture of tert-butyl (3-{[3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2,2′-dimethylbiphenyl-4-yl]oxy}propyl)carbamate (1.95 g) and ethyl acetate (5 ml), followed by stirring at 0° C. for a while and then stirring at room temperature for 1.5 hours. The solvent was evaporated under a reduced pressure, and the solid precipitated was collected by filtration and dried by heating under a reduced pressure to obtain 2-(4-{[4′-(3-aminopropoxy)-2,2′-dimethylbiphenyl-3-yl]methoxy}benzyl)-1,2,4-oxadiazolidine-3,5-dione hydrochloride (1.53 g) as a white solid.

reactant | hydrogen chloride dioxane | 4 M, 15 ml | O1CCOCC1.Cl
reactant | tert-butyl (3-{[3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2,2′-dimethylbiphenyl-4-yl]oxy}propyl)carbamate | 1.95 g | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C(=C(C=CC2)C2=C(C=C(C=C2)OCCCNC(OC(C)(C)C)=O)C)C)C=C1 | C32H37N3O7
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-{[4′-(3-aminopropoxy)-2,2′-dimethylbiphenyl-3-yl]methoxy}benzyl)-1,2,4-oxadiazolidine-3,5-dione hydrochloride | 1.53 g | Cl.NCCCOC1=CC(=C(C=C1)C1=C(C(=CC=C1)COC1=CC=C(CN2OC(NC2=O)=O)C=C1)C)C | InChI=1S/C27H29N3O5.ClH/c1-18-15-23(33-14-4-13-28)11-12-24(18)25-6-3-5-21(19(25)2)17-34-22-9-7-20(8-10-22)16-30-26(31)29-27(32)35-30;/h3,5-12,15H,4,13-14,16-17,28H2,1-2H3,(H,29,31,32);1H
